US08664220B2
Step 2: 1-(4′-{3-Methyl-4-[6-(2-oxo-oxazolidin-3-yl)-pyridin-2-ylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester
Prepared according to the procedure described in Example 134, Step 3, using 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester and 3-(6-bromo-pyridin-2-yl)-oxazolidin-2-one.

reactant | 1-[4′-(4-amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N | C22H22N2O3
reactant | 3-(6-bromo-pyridin-2-yl)-oxazolidin-2-one | BrC1=CC=CC(=N1)N1C(OCC1)=O | C8H7BrN2O2
product | 1-(4′-{3-Methyl-4-[6-(2-oxo-oxazolidin-3-yl)-pyridin-2-ylamino]-isoxazol-5-yl}-biphenyl-4-yl)-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC1=NC(=CC=C1)N1C(OCC1)=O | C30H28N4O5
